US08084644B2
N-phenyl-3-(phenylthio)acrylamide (2.0 g) was dissolved to chloroform (10 ml), and 7.8 ml of tetrafluoroboric acid triethyloxonium-dichloromethane 1 mol/L solution was added thereto dropwise under ice-cooling. It was stirred for one hour at room temperature, 50° C. for two hours and for five hours under heat refluxing. After cooling, ice-water was added to the reaction solution, then the chloroform layer was separated. The chloroform layer was washed with water, dried and distilled off the solvent. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=15/1) to obtain ethyl N-phenyl-3-(phenylthio)acrylimidate (0.15 g) as oil.

reactant | N-phenyl-3-(phenylthio)acrylamide | 2.0 g | C1(=CC=CC=C1)NC(C=CSC1=CC=CC=C1)=O | C15H13NOS
reactant | tetrafluoroboric acid triethyloxonium dichloromethane | 1 mol/L, 7.8 ml | C(C)[O+](CC)CC.F[B-](F)(F)F.[H+].ClCCl
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl N-phenyl-3-(phenylthio)acrylimidate | 0.15 g | C1(=CC=CC=C1)N=C(C=CSC1=CC=CC=C1)OCC | C17H17NOS
